US07598393B2
Step A. 5-Bromo-3-nitropyridin-2(1H)-one
To a solution of 5-bromopyridin-2(1H)-one (Aldrich, 3.0 g, 17.2 mmol) in sulfuric acid (18 mL) was added nitric acid (60-61%, Wako Pure Chemical Industries, Ltd., 6 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 3 h. The mixture was poured into ice water and obtained precipitate was collected by filtration. The solid was washed with water and dried in vacuo to afford the title compound (2.5 g, 68%) as a yellow solid.

reactant | 5-bromopyridin-2(1H)-one | 17.2 mmol, 3.0 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | nitric acid | 6 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 18 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-3-nitropyridin-2(1H)-one | 2.5 g, 68% | BrC=1C=C(C(NC1)=O)[N+](=O)[O-] | C5H3BrN2O3
